US08044041B2
A mixture of 1-methoxy-4-phenyl-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (80 mg, 0.189 mmol), dioxane (2 mL) and 48% HBr (4 mL) was stirred at 40° C. for 48 hours. Concentration followed by chromatography (Hex/EtOAc) afforded 1-hydroxy-4-phenyl-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (12 mg) as a white solid, 1H (500 MHz, CDCl3, 55° C.) δ: 7.47 (d, 1H), 7.52 (t, 1H), 7.56-7.65 (m, 5H), 7.84 (d, 1H), 7.90-7.96 (m, 2H), 8.21 (d, 1H), 8.29 (s, 1H), 8.65 (d, 1H), 10.40 (s, 1H) ppm. m/z 410.00.

reactant | 1-methoxy-4-phenyl-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.189 mmol, 80 mg | FC(C=1C=C(C=CC1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)OC)C1=CC=CC=C1)(F)F | C23H16F3N3O2
reactant | HBr | 4 mL | Br | BrH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1-hydroxy-4-phenyl-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 12 mg | FC(C=1C=C(C=CC1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)O)C1=CC=CC=C1)(F)F | C22H14F3N3O2
